US07402595B2
6-chloro-2-(4-methanesulfonylbenzyl)-4-[3-(3-morpholine-4-ylpropylcarbamoyl)phenyl]-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution (2 ml) of 4-(3-carboxyphenyl)-6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (100 mg) and 3-morpholin-4-ylpropylamine (31 μl) in acetonitrile were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (69 mg) and 4-hydroxybenzotriazole monohydrate (38 mg) at room temperature with stirring and the mixture was stirred at room temperature for 12 hrs. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was dried and concentrated to dryness. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=10/1) to give the title compound (93 mg) as colorless crystals.

reactant | 4-(3-carboxyphenyl)-6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 2 ml, 100 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)C(=O)O)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C26H20ClNO7S
reactant | 3-morpholin-4-ylpropylamine | 31 μl | N1(CCOCC1)CCCN | C7H16N2O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 69 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-hydroxybenzotriazole monohydrate | 38 mg | O.OC1=CC=CC=2NN=NC21
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-chloro-2-(4-methanesulfonylbenzyl)-4-[3-(3-morpholine-4-ylpropylcarbamoyl)phenyl]-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 93 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)C(NCCCN1CCOCC1)=O)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C33H34ClN3O7S
